US07056916B2
(a) 1-(3,5-difluorophenyl)-2-methylpropan-2-ol
The target compound is obtained by reacting a Grignard compound, prepared from 25.0 g (121 mmol) of 3,5-difluorobenzyl bromide, with 12.6 mL (171 mmol) of acetone. Yellow oil. Yield: 13.5 g (60%).

reactant | 3,5-difluorobenzyl bromide | 121 mmol, 25.0 g | FC=1C=C(CBr)C=C(C1)F | C7H5BrF2
reactant | acetone | 171 mmol, 12.6 mL | CC(=O)C | C3H6O
product | 1-(3,5-difluorophenyl)-2-methylpropan-2-ol | FC=1C=C(C=C(C1)F)CC(C)(O)C | C10H12F2O
